US06525042B1
1-[4-(2-Aminopyrimidin-5-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl]sulfonyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of 4-(2-amino-5-pyrimidyl)benzoic acid and 1-[(6-chloronaphthalen-2-yl]sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 4-(2-amino-5-pyrimidyl)benzoic acid | NC1=NC=C(C=N1)C1=CC=C(C(=O)O)C=C1 | C11H9N3O2
reactant | 1-[(6-chloronaphthalen-2-yl]sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[4-(2-Aminopyrimidin-5-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl]sulfonyl]piperazine hydrochloride | Cl.NC1=NC=C(C=N1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1 | InChI=1S/C25H22ClN5O3S.ClH/c26-22-7-5-20-14-23(8-6-19(20)13-22)35(33,34)31-11-9-30(10-12-31)24(32)18-3-1-17(2-4-18)21-15-28-25(27)29-16-21;/h1-8,13-16H,9-12H2,(H2,27,28,29);1H
